US06869954B2
Preparation of 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-(piperidino)methyl-2H-pyridazin-3-one
6-(4-Fluoro-3-methylphenyl)-2-isobutyl-4-methane-sulfonyloxymethyl-2H-pyridazin-3-one (80 mg, 0.22 mmol) and piperidine (55 mg, 0.65 mmol) were dissolved in ethanol (0.5 mL), and the mixture was heated at 80° C. for 1 hour under stirring. The solvent was distilled off. The residue was purified by preparative thin-layer chromatography on silica gel [developing solvent: chloroform/methanol (10/1)] to yield the title compound as a slightly yellow oil (73 mg, 94.0%).

reactant | 6-(4-Fluoro-3-methylphenyl)-2-isobutyl-4-methane-sulfonyloxymethyl-2H-pyridazin-3-one | 0.22 mmol, 80 mg | FC1=C(C=C(C=C1)C=1C=C(C(N(N1)CC(C)C)=O)COS(=O)(=O)C)C | C17H21FN2O4S
reactant | piperidine | 0.65 mmol, 55 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-(piperidino)methyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(N(N1)CC(C)C)=O)CN1CCCCC1)C | C21H28FN3O
